data/oMe_Silver.jsonl
{"reaction_id": "NR-033_1-OCC_2-C(=O)C_3-CC_4-S(=O)(=O)C_5-CC_6-C(F)(F)F_7-F","name": "Buchner Ring Expansion","level": "medium","reactants_smiles": ["N#[N+][CH-]C(=O)OCC","c1(C(=O)C)c(CC)c(S(=O)(=O)C)c(CC)c(C(F)(F)F)c1(F)"],"products_smiles": ["[CH](C(=O)OCC)1C(C(=O)C)=C(CC)C(S(=O)(=O)C)=C(CC)C(C(F)(F)F)=C1F"],"conditions": "heat/Metal","mechanism": [{"step": 1,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "[CH]C(=O)OCC","step_weight": 0,"rationale": "Heating with metal catalyst promotes nitrogen extrusion from the diazo group, forming a carbene stabilized by adjacent carbonyl resonance."},{"step": 2,"type": "addition","subtype": "electrophilic_addition","intermediate_smiles": "C(C(=O)OCC)1C(C(=O)C)2C(CC)=C(S(=O)(=O)C)C(CC)=C(C(F)(F)F)C2(F)1","step_weight": 0,"rationale": "The electrophilic carbene adds to the electron-rich aromatic π-system, favored by carbene’s high reactivity and aromatic nucleophilicity."},{"step": 3,"type": "pericyclic","subtype": "electrocyclization","intermediate_smiles": "[CH](C(=O)OCC)1C(C(=O)C)=C(CC)C(S(=O)(=O)C)=C(CC)C(C(F)(F)F)=C1F","step_weight": 0,"rationale": "The strained bicyclic intermediate undergoes thermally allowed electrocyclic ring expansion to a more stable conjugated seven-membered ring."}],"description": "Under thermal and metal catalysis, the diazo ketone loses nitrogen to form a reactive carbene, which adds to the aromatic ring. The resulting bicyclic intermediate undergoes a pericyclic ring expansion, yielding the seven-membered ring product characteristic of the Buchner reaction."}
{"reaction_id": "NR-215_1-Cl_2-C(F)(F)F_3-CC_4-OC_5-c2ccc(F)cc2_6-C(C)C_7-CC","level": "hard","name": "Pechmann Condensation","reactants_smiles": ["c1ccccc1O(Cl)","O=C(C(C(F)(F)F)(CC)(OC))CC(=O)OC(c2ccc(F)cc2)(C(C)C)(CC)"],"products_smiles": ["C(C(F)(F)F)(CC)(OC)C1=CC(=O)Oc2c(Cl)cccc21"],"conditions": "acid","mechanism_step_nums": 6,"mechanism": [{"step": 1,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "O=C(C(C(F)(F)F)(CC)(OC))CC(=O)Oc1c(Cl)cccc1","step_weight": 0,"rationale": "Acidic conditions protonate the ester, increasing electrophilicity of the carbonyl carbon, allowing phenol oxygen to attack and displace the original alkoxy group via nucleophilic acyl substitution."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[OH+]=C(C(C(F)(F)F)(CC)(OC))CC(=O)Oc1c(Cl)cccc1","step_weight": 0,"rationale": "Proton transfer to the β-keto carbonyl oxygen increases its electrophilicity, facilitating subsequent intramolecular attack by activating the carbonyl for cyclization."},{"step": 3,"type": "addition","subtype": "electrophilic_addition","intermediate_smiles": "OC(C(C(F)(F)F)(CC)(OC))1CC(=[O])O[C+]2C(Cl)=CC=CC21","step_weight": 0,"rationale": "The activated β-keto carbonyl undergoes intramolecular electrophilic attack by the aromatic ring, favored by resonance stabilization of the resulting carbocation intermediate."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "OC(C(C(F)(F)F)(CC)(OC))1CC(=[OH+])Oc2c(Cl)cccc21","step_weight": 0,"rationale": "Proton transfer to the hydroxyl oxygen adjacent to the ring oxygen increases leaving group ability, preparing for dehydration and restoring aromaticity."},{"step": 5,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "OC(C(C(F)(F)F)(CC)(OC))1C=C(O)Oc2c(Cl)cccc21","step_weight": 0,"rationale": "Loss of water occurs because the protonated hydroxyl is a good leaving group, and elimination forms the conjugated coumarin system, stabilized by extended π-conjugation."},{"step": 6,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C(F)(F)F)(CC)(OC)C1=CC(=O)Oc2c(Cl)cccc21","step_weight": 0,"rationale": "Final deprotonation restores neutrality and aromaticity, yielding the thermodynamically stable coumarin product."}],"description": "Under acidic conditions, the phenol and β-keto ester undergo Pechmann condensation. Acid catalysis activates the carbonyls toward nucleophilic attack, enabling ester exchange, intramolecular electrophilic substitution, and cyclization. Proton transfers facilitate intermediate stabilization, and elimination yields the coumarin core with substituents from both reactants."}
